US07687490B2
A solution of 14.53 g of 2-amino-4-ethoxycarbonylthiazole in 200 ml of THF was cooled in ice under an argon atmosphere, 20.0 g of N-iodosuccinimide was added to the cooled solution, and the mixture was stirred at the same temperature for 1.5 hr. Brine was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, was filtered, and was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1 to 1:2) to give 21.12 g of 2-amino-4-ethoxycarbonyl-5-iodothiazole.

reactant | 2-amino-4-ethoxycarbonylthiazole | 14.53 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | N-iodosuccinimide | 20.0 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 2-amino-4-ethoxycarbonyl-5-iodothiazole | 21.12 g | NC=1SC(=C(N1)C(=O)OCC)I | C6H7IN2O2S
